US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-iodo-5-phenylisoxazole
3-Hydroxy-4-iodo-5-phenylisoxazole (0.2 g) and 2-(N-tert-butoxycarbonylamino)ethanol (0.12 g) were subjected to reaction and post-treatment in a similar manner to that described in Example 9(a) to obtain the title compound (0.22 g, 73%) as a colorless powder.

reactant | 3-Hydroxy-4-iodo-5-phenylisoxazole | 0.2 g | OC1=NOC(=C1I)C1=CC=CC=C1 | C9H6INO2
reactant | 2-(N-tert-butoxycarbonylamino)ethanol | 0.12 g | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-iodo-5-phenylisoxazole | 0.22 g, 73% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1I)C1=CC=CC=C1 | C16H19IN2O4
